US05872115
Step 2): A mixture of 6-hydroxy-1,2-dihydro-4H-3,1-benzoxazin-2,4-dione (360 mg, 2 mmol) and 4-aminomethyl-1-diphenylmethylpiperidine (420 mg, 1.5 mmol) in DMSO (5 ml) was stirred for 3 hours at room temperature. The reaction mixture was diluted with AcOEt and washed twice with brine. The organic layer was dried over MgSO4 and evaporated, and then the residue was purified by column chromatography on silica gel to give 2-amino-5-hydroxy-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide, 520 mg (63%).

reactant | 6-hydroxy-1,2-dihydro-4H-3,1-benzoxazin-2,4-dione | 2 mmol, 360 mg | OC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H5NO4
reactant | 4-aminomethyl-1-diphenylmethylpiperidine | 1.5 mmol, 420 mg | NCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-amino-5-hydroxy-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)O | C26H29N3O2
